US06391887B1
7-(2-Furanyl)-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one
A suspension of 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one (1.32 g, 5.0 mmol) in toluene (200 ml) is mixed with 2-(tributylstannyl)furan (1.7 ml, 5.5 mmol) and tetrakis(triphenylphosphine)palladium (0.29 g, 0.25 mmol). The reaction mixture is degassed, aerated with nitrogen, stirred for 15 hours at room temperature and heated for 4.5 hours to 110° C. The batch is mixed with silica gel and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 1.33 g of product.

reactant | 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 5.0 mmol, 1.32 g | BrC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C12H10BrNO
reactant | 2-(tributylstannyl)furan | 5.5 mmol, 1.7 ml | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.25 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2-Furanyl)-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 1.33 g | O1C(=CC=C1)C=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C16H13NO2
